Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
here for PCI

 
Major Surgical or Invasive Procedure:
cardiac catheterization 
 
History of Present Illness:
Mr. ___ is a ___ year old man with a h/o type 1 diabetes 
and dyslipidemia who presents from ___ after experiencing chest 
pain post-op from a bilateral TKA. He has been having occasional 
exertional angina/SOB x 6 months with walking up 4 flights of 
steps, described as burning chest pain. He experienced this 
chest pain during ___ post-op, w/the last episode 1 week ago.

He underwent stress test and experienced chest pressure and ST 
changes during stress. LVEF was calculated at 65%. He then 
underwent cardiac cath which showed 80-90% stenosis in the L 
circumflex b/t ___ and ___ marginal branch and 70% in the mid 
distal vessel. RCA with 30% stenosis mid vessel. Troponins at 
the OSH were: 0.09, 0.08, and 0.07. He was transferred to ___ 
for PCI.
 
On the floor, patient denied current chest pain but endorsed 
___ bilateral knee pain. 
 
Review of systems:  
(+) Per HPI and for BPH sx (chronic), constipation, pruritic 
back rash, and occasional nausea post op. The rest of the 10 
point ROS is negative. 

 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Type 1 Diabetes  
2. CARDIAC HISTORY:  none  
3. OTHER PAST MEDICAL HISTORY:  
- arthritis
- hearing loss
- appendectomy
- knee arthroscopies
- hernia repair x 2
- tonsillectomy 

 
Social History:
___
Family History:
MGM and MGF: early MI
mother: PVD
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
Vitals: T:98.2  BP:125/70  HR:52  RR:16  02 sat:98% RA  
GENERAL: NAD, awake and alert  
HEENT: AT/NC, pinpoint pupils, anicteric sclera, pink 
conjunctiva, good dentition  
NECK:  supple  
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use 
 
ABDOMEN: +BS, soft, non-tender, non-distended, no guarding 
EXT: warm and well-perfused, 1+ edema BLE   
NEURO: alert and oriented, speech appropriate, face symmetrical, 
strength and sensation grossly normal
SKIN: erythematous papular rash on back with excoriations, 
sparing the rest of his body  

DISCHARGE PHYSICAL EXAM:  
Vitals: 98.1  119/81  73  18  98% RA
GENERAL: NAD, awake and alert  
HEENT: AT/NC, anicteric sclera, pink conjunctiva, good dentition 
 
NECK:  supple  
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use 
 
ABDOMEN: +BS, soft, non-tender, non-distended, no guarding 
EXT: warm and well-perfused, trace edema BLE, bilat knees in ACE 
wraps, surgical incision c/d/i with no erythema or pus  
NEURO: alert and oriented, speech appropriate, face symmetrical, 
strength and sensation grossly normal
SKIN: erythematous papular rash on back with excoriations, 
improving
 
Pertinent Results:
ADMISSION LABS:
___ 07:00PM   GLUCOSE-71 UREA N-15 CREAT-0.8 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-98 TOTAL CO2-28 ANION GAP-15
___ 07:00PM   estGFR-Using this
___ 07:00PM   CK-MB-3 cTropnT-<0.01
___ 07:00PM   CALCIUM-9.1 PHOSPHATE-3.8 MAGNESIUM-2.1
___ 07:00PM   WBC-4.8 RBC-3.38*# HGB-10.4*# HCT-32.2*# 
MCV-95 MCH-30.9 MCHC-32.4 RDW-12.6
___ 07:00PM   PLT COUNT-418#
___ 07:00PM   ___ PTT-32.4 ___

DISCHARGE LABS:
___ 06:27AM BLOOD WBC-4.0 RBC-3.48* Hgb-10.7* Hct-33.9* 
MCV-98 MCH-30.8 MCHC-31.6 RDW-12.8 Plt ___
___ 06:27AM BLOOD Glucose-70 UreaN-15 Creat-0.8 Na-141 
K-4.4 Cl-104 HCO3-32 AnGap-9
___ 06:27AM BLOOD Calcium-9.3 Phos-4.5 Mg-2.2

IMAGING:

ECG ___: Sinus rhythm. Left ventricular hypertrophy by 
voltage. No previous tracing available for comparison.  

CARDIAC CATH ___:
FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease with diffuse p-mLAD. 
2. Referred for elective CABG. 

 
Brief Hospital Course:
___ with history of diabetes, symptoms of exertional angina, who 
developed chest pain at ___ op after double 
knee replacement, found to have 80-90% L circumflex stenosis, 
transferred to ___ for PCI. 

# Unstable Angina: With chest pain post-op, abnormal stress 
test, and two vessel disease seen during catheterizations. Trop 
elevated to 0.09 at ___ and subsequently trended 
down. He had no recurrence of chest pain at ___. No PCI was 
done during second cath at ___ and recommendation and referral 
were made  for elective CABG. He was discharged on ASA, statin, 
plavix, metoprolol. He has CV surgery follow up in ___.

# Post-op status post Bilat knee replacements: Continued pain 
control with PO dilaudid, requiring up to 26mg per day, 
particularly after physical therapy. He will continue recovering 
from knee replacement at home. Per patient's wishes, he was not 
discharged to rehab. 

# GERD: continued protonix

# Diabetes, Type 1: seen by ___ at ___ who recommended 
glargine 18 units QHS, 14 units QAM which was continued at ___ 
along with an insulin sliding scale. 

# Rash: Located on back, papular and erythematous with 
excorations. Likely eczema. Continued Fluocinolone Acetonide 
0.025% Cream with prescription for 1 week.  

# BPH: continued tamsulosin

TRANSITIONAL ISSUES:
- follow up outpatient for further pain control (was discharged 
with 1 week of narcotics)
- f/u with CV surgery re: CABG

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. aspart Unknown Dose
detemir 22 Units Bedtime
4. Condrolite (glucosamine sul-chondroitn-msm) ___ mg 
oral daily 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Glargine 14 Units Breakfast
Glargine 18 Units Bedtime
3. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
4. Fluocinolone Acetonide 0.025% Cream 1 Appl TP BID Duration: 5 
Days 
RX *fluocinolone 0.025 % apply thin layer to rash twice a day 
Disp #*1 Tube Refills:*0
5. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
three (3) hours Disp #*100 Tablet Refills:*0
6. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
7. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 packet by mouth 
once a day Disp #*30 Packet Refills:*0
8. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
9. Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule,extended release 24hr(s) by 
mouth once a day Disp #*30 Capsule Refills:*0
10. Condrolite (glucosamine sul-chondroitn-msm) ___ mg 
oral daily 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
12. Metoprolol Succinate XL 75 mg PO DAILY 
RX *metoprolol succinate 50 mg 1.5 tablet extended release 24 
hr(s) by mouth once a day Disp #*45 Tablet Refills:*0
13. Nitroglycerin SL 0.3 mg SL PRN chest pain 
repeat every 5 min for a maximum of 3 tablets in 15 minutes.  If 
pain after 3 doses, call MD or 911 
RX *nitroglycerin 0.4 mg 1 (One) tablet sublingually PRN Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
non-ST elevation myocardial infarction
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at ___.  You were 
admitted to the hospital for a heart attack (NSTEMI).  We did a 
cardiac catheterization and found diffuse coronary artery 
disease that will require a bypass surgery to fix.  

We made several medication changes to protect your heart.  
Please see below for follow up appointments and medication list. 
 

 
Followup Instructions:
___